Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p assault
 
Major Surgical or Invasive Procedure:
Open reduction and internal fixation with closed reduction and 
maxillomandibular fixation of bilateral mandibular parasymphysis 
fractures. 

 
History of Present Illness:
___ otherwise healthy presented after being assaulted last
night, + LOC for unclear period of time, amnestic to the event,
was taken to OSH where he had head CT and c spine - both 
negative
for traumatic injuries but found to have isolated mandibular
fracture. He was transferred to ___ for further care. 
In ED his pain is controlled, alert and oriented, GSC of 15,
denies chest pain, difficulty breathing, pain anywhere else
besides the jaw, no nausea or vomiting, denies double vision and
or visual field changes
 
Past Medical History:
GERD

                                
PSH:
Esophagoscopy
Colonoscopy
 
Social History:
___
Family History:
N/C
 
Physical Exam:
Admit PE:
Vitals: T97.8, HR 72,BP 138/89, RR 16, sat 98%/RA
GEN: A&Ox3, appears comfortable
HEENT: EOMI, PERRL, C collar in place, no cervical spine
tenderness, trachea is midline, no hematomas or penetrating
injuries to the neck, there is an apparent mandibular asymmetry,
otherwise CNII-XII intact, 
CV: RRR,
PULM: Clear to auscultation b/l, No labored breathing, no chest
tenderness or sigs of traumatic injury
ABD: Soft, nondistended, nontender, no rebound or guarding, no
signs of traumatic injury, negative FAST, 
Ext: No ___ edema, ___ warm and well perfused, no tenderness or a
abrasions

Discharge PE:
VS: Temp 98.0, HR 60, BP 130/80, RR 18, SaO2 99% RA
General: NAD, A&Ox3
HEENT: NCAT except for lower facial edema. EOMI, PERRLA. V3 
paresthesias.  Speech muffled but fluent.  
CV: RRR, well perfused
Resp: Clear, normal WOB
GI/Abd: soft, NT/ND
Extremities: atraumatic, no CCE
 
Pertinent Results:
___ 09:26AM BLOOD ASA-NEG Ethanol-56* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:26AM BLOOD Glucose-83 UreaN-8 Creat-0.8 Na-141 K-4.2 
Cl-104 HCO3-20* AnGap-21*
___ 09:26AM BLOOD Neuts-81.0* Lymphs-11.4* Monos-6.9 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-9.20* AbsLymp-1.29 
AbsMono-0.78 AbsEos-0.01* AbsBaso-0.02
___ 09:26AM BLOOD WBC-11.4* RBC-4.77 Hgb-13.5* Hct-41.6 
MCV-87 MCH-28.3 MCHC-32.5 RDW-14.2 RDWSD-45.2 Plt ___
___ 09:26AM BLOOD ___ PTT-31.2 ___
 
Brief Hospital Course:
___ is a ___ year old otherwise healthy male who presents 
as a transfer from OSH with isolated mandibular fracture, s/p 
assault, +ETOH abuse. He was seen and evaluated by ___ who 
requested an admission to ___ for surgical repair or mandibular
fracture. HD 1 he underwent open reduction and internal fixation 
with closed reduction and maxillomandibular fixation of 
bilateral mandibular parasymphysis fractures by ___. He 
remained stable post-op and was discharged home to follow-up in 
one week as per the recommendations of ___.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet and early ambulation were encouraged throughout 
hospitalization. 
GI/GU/FEN: The patient was initially kept NPO.  On POD 1the diet 
was advanced sequentially to a Full Liquid Diet, which was well 
tolerated. Patient's intake and output were closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  The patient was given IV 
ancef while inpatient which was transitioned to PO keflex x7 
days as per the recommendations of OMFS.  He will also continue 
peridex mouth rinse.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  He will receive a followup 
panorex outpatient which was ordered.

 
Medications on Admission:
omeprazole 40 mg '
 
Discharge Medications:
1. Cephalexin 500 mg PO Q6H Duration: 1 Week 
RX *cephalexin 250 mg/5 mL 10 ml by mouth every six (6) hours 
Refills:*0
2. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL QID 
RX *chlorhexidine gluconate 0.12 % oral rinse with 15 ml four 
times a day Refills:*0
3. OxycoDONE Liquid ___ mg PO Q4H:PRN pain 
do not drive or drink alcohol while taking this medication 
RX *oxycodone 5 mg/5 mL ___ ml by mouth every four (4) hours 
Refills:*0
4. Acetaminophen (Liquid) 650 mg PO Q6H 
RX *acetaminophen 650 mg/20.3 mL 20 ml by mouth every six (6) 
hours Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Comminuted mandibular fractures involving the right mandibular 
ramus, body and parasymphyseal/mental region and the left 
parasymphyseal/mental region

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ and 
underwent repair of your mandibular fractures. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

Take 1 week of PO Keflex ___ 4 times a day as prescribed
Peridex mouth rinse swish and spit twice daily
Apply Ice to face to help reduce swelling and pain
Full liquid diet, no solid food until cleared by ___ at 
follow-up

Pain control:
o Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
o You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed.
o Your pain medicine will work better if you take it before your 
pain gets too severe.
o Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
o If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.

MEDICATIONS:
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.
If you have any questions about what medicine to take or not to 
take, please call your surgeon.
 
Followup Instructions:
___